US07439237B2
(9i) (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-1-(4-morpholin-4-yl-piperidin-1-yl)-4-[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione
Prepared analogously to Example (1 g) from 70 mg (0.126 mmol) (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-butanoic acid and 22 mg (0.130 mmol) 4-piperidin-4-yl-morpholine.

reactant | (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-butanoic acid | 0.126 mmol, 70 mg | ClC=1C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C(C1O)C(F)(F)F | C26H27ClF3N3O5
reactant | 4-piperidin-4-yl-morpholine | 0.130 mmol, 22 mg | N1CCC(CC1)N1CCOCC1 | C9H18N2O
product | (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-1-(4-morpholin-4-yl-piperidin-1-yl)-4-[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione | ClC=1C=C(C[C@H](C(=O)N2CCC(CC2)N2CCOCC2)CC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C(C1O)C(F)(F)F | C35H43ClF3N5O5
